US05905071
14b N-[2-(N-Carbobenzoxy-glycyl-L-alanyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-octadecanamide.
from N-(2-L-alanyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-octadecanamide and N-carbobenzoxy-glycine.

reactant | N-(2-L-alanyl-amino-2-deoxy-β-D-glucopyranosyl)-N-tetradecyl-octadecanamide | N[C@@H](C)C(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCCCCCCCC)=O)CCCCCCCCCCCCCC)N | C41H81N3O6
reactant | N-carbobenzoxy-glycine | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
product | N-[2-(N-Carbobenzoxy-glycyl-L-alanyl)-amino-2-deoxy-β-D-glucopyranosyl]-N-tetradecyl-octadecanamide | C(=O)(OCC1=CC=CC=C1)NCC(=O)N[C@@H](C)C(=O)[C@H]1[C@@](O[C@@H]([C@H]([C@@H]1O)O)CO)(N(C(CCCCCCCCCCCCCCCCC)=O)CCCCCCCCCCCCCC)N | C51H90N4O9
